US05401711
Preparation of methyl 2-[(4,6-dimethoxypyrimidin-2 -yl)oxy]-6-(1-pentynyl)benzoate (Compound No. 54)
Diisopropylammonium 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(1-pentynyl)benzoate (1.00 g, 2.3 mmol) was dissolved in tetrahydrofuran (20 ml)-DMF (10 ml) in a 50 ml round bottom-flask, and methyl iodide (1.4 g, 10.0 mmol) was added thereto little by little. The resultant mixture was stirred at 50° C. for 2 hours and THF-DMF was distilled off under reduced pressure. Water was added to the resultant residue, and the residue was extracted with ethyl acetate. The organic layer thus obtained was washed with water and a saturated salt water, dried with anhydrous sodium sulfate and concentrated. To the resultant mixture, was added an appropriate amount of Florisil, and the mixture was eluted with ispropyl ether. The solvent was then distilled off under reduced pressure to obtain 0.61 g (yield: 76.3 %) of the aimed product (yellow viscous liquid).

reactant | Diisopropylammonium 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(1-pentynyl)benzoate | 2.3 mmol, 1.00 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)[O-])C(=CC=C1)C#CCCC.C(C)(C)[NH2+]C(C)C
reactant | methyl iodide | 10.0 mmol, 1.4 g | CI | CH3I
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 2-[(4,6-dimethoxypyrimidin-2 -yl)oxy]-6-(1-pentynyl)benzoate | 0.61 g, yield: 76.3 % | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OC)C(=CC=C1)C#CCCC | C19H20N2O5
